data/oMe_Silver.jsonl
{"reaction_id": "NR-335_1-c2ccccc2_2-c2cnccn2_3-CC_4-C_5-C2CCCCC2_6-C(=O)C_7-CC","level": "medium","name": "Robinson Annulation","reactants_smiles": ["C(=C(CC)C(=O)C)(c2ccccc2)c2cnccn2","C(C2CCCCC2)(C(=O)C)C(=O)CC"],"products_smiles": ["C1(=C(C)C(=O)C(C(c2ccccc2)(c2cnccn2)C1(C2CCCCC2)C(=O)C)CC)CC"],"conditions": "Catalytic base","mechanism_step_nums": 7,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=C(C2CCCCC2)C(=O)C)([O-])CC","step_weight": 0,"rationale": "The base abstracts an α-proton adjacent to the carbonyl, generating a resonance-stabilized enolate due to delocalization over the carbonyl oxygen."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(=O)(C(C(c2ccccc2)(c2cnccn2)C(=C([O-])CC)CC)(C2CCCCC2)C(=O)C)CC","step_weight": 0,"rationale": "The nucleophilic enolate attacks the β-carbon of the α,β-unsaturated carbonyl via Michael addition, favored by conjugation and electrophilicity at the β-position."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C(C(c2ccccc2)(c2cnccn2)C(CC)C(=O)CC)(C2CCCCC2)C(=O)C)CC","step_weight": 0,"rationale": "Protonation of the enolate oxygen regenerates a neutral carbonyl, stabilizing the intermediate and preparing for further enolate formation."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C(C(c2ccccc2)(c2cnccn2)C(CC)C([O-])=CC)(C2CCCCC2)C(=O)C)CC","step_weight": 0,"rationale": "The base deprotonates another α-position, forming a new enolate that is positioned for intramolecular nucleophilic attack."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(C)C(=O)C(C(c2ccccc2)(c2cnccn2)C1(C2CCCCC2)C(=O)C)CC)(CC)[O-]","step_weight": 0,"rationale": "The enolate attacks the intramolecular carbonyl, forming a six-membered ring via aldol cyclization, favored by minimal ring strain."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C(C)=C([O-])C(C(c2ccccc2)(c2cnccn2)C1(C2CCCCC2)C(=O)C)CC)(CC)O","step_weight": 0,"rationale": "Proton transfer converts the alkoxide intermediate into a β-hydroxy carbonyl, setting up for elimination."},{"step": 7,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1(=C(C)C(=O)C(C(c2ccccc2)(c2cnccn2)C1(C2CCCCC2)C(=O)C)CC)CC","step_weight": 0,"rationale": "Base-induced elimination of water forms the α,β-unsaturated carbonyl, driven by conjugation and thermodynamic stability of the enone."}],"description": "Under basic conditions, the Robinson annulation proceeds via enolate formation, Michael addition to an α,β-unsaturated carbonyl, followed by intramolecular aldol condensation and dehydration. The base promotes enolate generation, facilitates C–C bond formation, and drives cyclization to the conjugated cyclohexenone product."}
{"reaction_id": "NR-107_1-C_2-CC(C)C_3-C_4-c1ccc(OC(C)(C)C)cc1_5-c1ccccc1C_6-CC_7-C","level": "medium","name": "Hofmann Elimination","reactants_smiles": ["C(C)(CC(C)C)C(C)(c1ccc(OC(C)(C)C)cc1)[N+](c1ccccc1C)(CC)C","[OH-]"],"products_smiles": ["C(=C(C)c1ccc(OC(C)(C)C)cc1)(C)CC(C)C"],"conditions": "Heat","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C(C)c1ccc(OC(C)(C)C)cc1)(C)CC(C)C","step_weight": 0,"rationale": "Hydroxide abstracts the least hindered β-hydrogen anti-periplanar to the bulky ammonium group; the excellent leaving ability of the quaternary ammonium drives E2 elimination, yielding the less substituted alkene favored by steric effects."}],"description": "Under strong base and heat, the quaternary ammonium group undergoes Hofmann elimination, favoring the less substituted alkene due to steric hindrance and anti-periplanar geometry requirements. Hydroxide abstracts a β-proton, facilitating elimination of the bulky ammonium leaving group."}
